US09315475B2
Step 2. Preparation of tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate
Tert-Butyl(2R,5R)-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}-5-[2-(2-nitrophenyl)vinyl]morpholine-4-carboxylate (1.0 equiv) was dissolved in EtOH (0.07 M) in a Parr shaker vessel. Palladium on carbon (12 wt %) was added. The reaction mixture was flushed with nitrogen, and then submitted to 45 psi hydrogen with shaking for 18 h. The crude mixture was flushed with nitrogen, filtered on solka floc and concentrated to yield the desired product.

reactant | Tert-Butyl(2R,5R)-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}-5-[2-(2-nitrophenyl)vinyl]morpholine-4-carboxylate | 1.0 equiv | COC(=O)N[C@H](C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)C=CC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C42H46N4O8
solvent | EtOH | 0.07 M | CCO | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate | NC1=C(C=CC=C1)CC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O | C42H50N4O6
